US05698577
(1S,5R)-7-Oxo-2-(phenylcarbamoyl)-2,6-diazabicyclo[3.2.0]heptane
100 mg (0.89 mmol) of (1S,5R)-2,6-diazabicyclo[3.2.0]heptan-7-one were dissolved in 5 ml of chloroform and heated to boiling under reflux. Phenyl isocyanate (0.1 ml, 0.89 mmol) and 1 drop of triethylamine were added. thereto and the mixture was left to react at the boiling temperature for 1 hour. After concentration the residue was chromatographed over silica gel (0.063-0.2 mm particle size) with ethyl acetate:ethanol=3:2.

reactant | (1S,5R)-2,6-diazabicyclo[3.2.0]heptan-7-one | 0.89 mmol, 100 mg | [C@@H]12NCC[C@H]2NC1=O | C5H8N2O
reactant | Phenyl isocyanate | 0.89 mmol, 0.1 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | (1S,5R)-7-Oxo-2-(phenylcarbamoyl)-2,6-diazabicyclo[3.2.0]heptane | O=C1N[C@@H]2CCN([C@H]12)C(NC1=CC=CC=C1)=O | C12H13N3O2
